US06001856
Example Five (R)-N-(5-(1.2-Dihydroxy-ethyl)-pyridin-2-yl)-acetamide.
A suspension of AD-Mix-B® (56.33 g) in water (200 ml) and t-butanol (200 ml) was cooled to 5° C. and N-(5-Vinyl-pyridin-2-yl)-acetamide (6.52 g, 40.2 mmol) was added followed by 2-propanol (400 ml). The mixture was stirred at 5° C. for 12 hours and then at 20 ° C. for 12 hours. The reaction mixture was then treated with sodium sulfite (60.4 g), stirred for 30 minutes and then diluted with 500 ml of 2-propanol and stirred for an additional one hour. The mixture was filtered and the alcoholic phase was separated and evaporated to dryness. The residue was slurried in 500 ml of 2-propanol and evaporated again. The residue was dried to afford 6.35 g (80%) of the title product as colorless crystals. The crystals were recrystallized by dissolving in hot glacial acetic acid, diluting 7-fold with 2-propanol, cooling and seeding to give the title product as crystals. mp 184-185° C. 1H NMR (dmso-d6): δ=8.22 (d, 1 H); 7.99 (d, 1 H); 7.68 (d of d, 1 H); 4.52 (t, 1 H); 3.44 (m, 2 H); 2.07 (s, 3 H). MS (Cl): m/z=197 (M+H+). Optical Rotation: -4.52° (c=0.05, acetic acid). Analysis: Calculated for C9H12N2O3 : C, 55.09%; H,6.17%; N, 14.28%. Found: C, 55.43%; H, 5.97%; N,13.96%.

reactant | t-butanol | 200 ml | C(C)(C)(C)O | C4H10O
reactant | N-(5-Vinyl-pyridin-2-yl)-acetamide | 40.2 mmol, 6.52 g | C(=C)C=1C=CC(=NC1)NC(C)=O | C9H10N2O
reactant | sodium sulfite | 60.4 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | 2-propanol | 500 ml | CC(C)O | C3H8O
solvent | 2-propanol | 400 ml | CC(C)O | C3H8O
product | (R)-N-(5-(1.2-Dihydroxy-ethyl)-pyridin-2-yl)-acetamide | 6.35 g, 80% | O[C@@H](CO)C=1C=CC(=NC1)NC(C)=O | C9H12N2O3
